US05286252
(f) Preparation of 3-(3-aminopropyl)benzamide
A mixture of 15.42 g (0.05 mole) N-[3-(3-carbamoylphenyl)propyl]phthalimide (the product of step (e)), 2.76 g (0.055 mole) hydrazine monohydrate and 100 ml ethanol was refluxed for about four hours under argon with heat, and then allowed to stir overnight. The reaction mixture was acidified with 30% (v/v) hydrochloric acid to a pH of about 1. Additional ethanol (about 10 to 20 ml) was added to the thick mixture. The mixture was filtered; the solids were rinsed with ethanol. The filtrate was evaporated to give a solid. Water (about 15 ml) was added to the solid; the resulting mixture was filtered. The filtrate wa basified with dry potassium carbonate until saturated, then extracted three times with 20 ml butanol. The butanol extracts were dried over sodium sulfate and potassium carbonate overnight, filtered and stripped to give 4.25 g of the above-identified product.

reactant | N-[3-(3-carbamoylphenyl)propyl]phthalimide | 0.05 mole, 15.42 g | C(N)(=O)C=1C=C(C=CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C18H16N2O3
reactant | hydrazine monohydrate | 0.055 mole, 2.76 g | O.NN
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | about 10 to 20 ml | C(C)O | C2H6O
solvent | Water | about 15 ml | O | H2O
product | 3-(3-aminopropyl)benzamide | 4.25 g | NCCCC=1C=C(C(=O)N)C=CC1 | C10H14N2O
